US07666878B2
93b) [1-(4-Ethanesulfonyl-2-trifluoromethyl-benzyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester
To a stirred solution of (2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester ((0.77 g, 3.78 mmol) in dry DMF (12 ml) under an inert atmosphere of Argon is added dropwise, BEMP (1.75 ml, 6.04 mmol). The mixture was allowed to stir at room temperature for 1 hour and then treated with 1-bromomethyl-4-ethanesulfonyl-2-trifluoromethyl-benzene (2 g, 6.04 mmol). Stirring continues for a further 2 hours after which time, the reaction mixture is partitioned between ethyl acetate/diethyl ether (80 ml of a 1:1 mixture) and water (100 ml). The organic portion is separated and washed with brine and concentrated in vacuo. Purification of the crude by chromatography on silica eluting with iso-hexane/ethyl acetate (3:1 increasing to 2:1) yields the titled product. (MH+ 455)

reactant | (2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester | COC(CC1=C(NC2=NC=CC=C21)C)=O | C11H12N2O2
reactant | BEMP | 6.04 mmol, 1.75 ml | CCN(CC)P1(=NC(C)(C)C)N(CCCN1C)C | C13H31N4P
reactant | 1-bromomethyl-4-ethanesulfonyl-2-trifluoromethyl-benzene | 6.04 mmol, 2 g | BrCC1=C(C=C(C=C1)S(=O)(=O)CC)C(F)(F)F | C10H10BrF3O2S
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
product | [1-(4-Ethanesulfonyl-2-trifluoromethyl-benzyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester | COC(CC1=C(N(C2=NC=CC=C21)CC2=C(C=C(C=C2)S(=O)(=O)CC)C(F)(F)F)C)=O | C21H21F3N2O4S
